US05948791
N1 -(7-Chloro-quinolin-4-yl)-N2 -(2-hydroxy-4-methoxy-benzyl)-2-methyl-propane-1,2-diamine dihydrochloride
1.25 g of N1 -(7-chloro-quinolin-4-yl)-2-methyl-propane-1,2-diamine and 0.76 g of 2-hydroxy-4-methoxy-benzaldehyde were stirred under reflux overnight in 20 ml of ethanol in the presence of 1.25 g of molecular sieve (E. Merck, 3 Å). The mixture was filtered, the solvent was evaporated and the residue was again taken up in 20 ml of ethanol. After the addition of 0.19 g of sodium borohydride the mixture was stirred at room temperature for 6 hours, thereafter 5 ml of glacial acetic acid were added thereto and the mixture was evaporated to dryness. 10 ml of methanol were added to the residue and the mixture was again evaporated. Addition of methanol and evaporation were repeated twice. Finally, the residue was taken up in 10 ml of hot ethanol, 10 ml of 3N isopropanolic hydrochloric acid were added thereto and the product was left to crystallize out as the dihydrochloride. Yield 1.8 g (78%) of colourless crystalline powder, m.p. 220° C.

reactant | N1 -(7-chloro-quinolin-4-yl)-2-methyl-propane-1,2-diamine | 1.25 g | ClC1=CC=C2C(=CC=NC2=C1)NCC(C)(N)C | C13H16ClN3
reactant | 2-hydroxy-4-methoxy-benzaldehyde | 0.76 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N1 -(7-Chloro-quinolin-4-yl)-N2 -(2-hydroxy-4-methoxy-benzyl)-2-methyl-propane-1,2-diamine dihydrochloride | Cl.Cl.ClC1=CC=C2C(=CC=NC2=C1)NCC(C)(NCC1=C(C=C(C=C1)OC)O)C | InChI=1S/C21H24ClN3O2.2ClH/c1-21(2,25-12-14-4-6-16(27-3)11-20(14)26)13-24-18-8-9-23-19-10-15(22)5-7-17(18)19;;/h4-11,25-26H,12-13H2,1-3H3,(H,23,24);2*1H
